US09359337B2
2-[(4-Fluoro-benzenesulfonyl)-isopropyl-amino]-N-[4-(5-trifluoromethyl-pyridin-2-yl)-morpholin-2-ylmethyl]-acetamide
2-(4-Fluoro-N-isopropylphenylsulfonamido)acetic acid (108 mg, 0.39 mmol), (4-(5-(trifluoromethyl)pyridin-2-yl)morpholin-2-yl)methylamine dihydrochloride (131 mg, 0.39 mmol) and TEA (0.22 mL) were combined in dichloromethane (6 mL). To this stirred solution was added BOP reagent (174 mg, 0.39 mmol). The mixture was stirred at room temperature for 6 h. Solvents were evaporated and the residue was extracted with ethyl acetate and water, washed with sodium bicarbonate solution and dried. Solvents were evaporated. The residue was purified by ISCO flash column chromatography (0% to 100% ethyl acetate in hexanes) to give a white powder (160 mg, 79%). [MH]+=519.0.

reactant | 2-(4-Fluoro-N-isopropylphenylsulfonamido)acetic acid | 0.39 mmol, 108 mg | FC1=CC=C(C=C1)S(=O)(=O)N(C(C)C)CC(=O)O | C11H14FNO4S
reactant | (4-(5-(trifluoromethyl)pyridin-2-yl)morpholin-2-yl)methylamine dihydrochloride | 0.39 mmol, 131 mg | Cl.Cl.FC(C=1C=CC(=NC1)N1CC(OCC1)CN)(F)F
reactant | BOP reagent | 0.39 mmol, 174 mg | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
product | 2-[(4-Fluoro-benzenesulfonyl)-isopropyl-amino]-N-[4-(5-trifluoromethyl-pyridin-2-yl)-morpholin-2-ylmethyl]-acetamide | 160 mg, 79% | FC1=CC=C(C=C1)S(=O)(=O)N(CC(=O)NCC1CN(CCO1)C1=NC=C(C=C1)C(F)(F)F)C(C)C | C22H26F4N4O4S
